US04125732
3-(p-Chlorophenoxy)propan-2-ol O-methanesulfonate
To a solution of 37.4 g of 3-(p-chlorophenoxy)propan-2-ol and 41 ml of triethylamine in 500 ml of dichloromethane stirred and chilled at -8° C. is added dropwise 18.7 ml of methanesulfonyl chloride in 50 ml of dichloromethane. After stirring at -8° C. for 1 hour, the solution is washed with 350 ml portions of ice cold water, 1N HCl, saturated NaCl, saturated NaHCO3 and saturated NaCl. The organic layer is dried (MgSO4) and the solvent removed under reduced pressure to give 54 g of product as white crystals, mp 72°-78° C.

reactant | 3-(p-chlorophenoxy)propan-2-ol | 37.4 g | ClC1=CC=C(OCC(C)O)C=C1 | C9H11ClO2
reactant | triethylamine | 41 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 18.7 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(p-Chlorophenoxy)propan-2-ol O-methanesulfonate | 54 g | CS(=O)(=O)OC(C)COC1=CC=C(C=C1)Cl | C10H13ClO4S
